US05587379
A stirred solution of 25.3 grams (0.230 mole) of potassium tert.-butoxide in 250 mL of tetrahydrofuran was cooled to 0 ° C., and a solution of 56.5 grams (0.230 mole) triethyl 4-phosphonocrotonate in 50 mL of tetrahydrofuran was added dropwise while maintaining the reaction mixture temperature at about 0°-10 ° C. The complete addition required about 30 minutes. The reaction mixture was then stirred for one hour at 0°-5° C., and then 26.6 grams (0.180 mole) of 4-methoxyacetophenone was added in one portion. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred for about 18 hours. After this time the reaction mixture was made acidic with an aqueous 2N hydrochloric acid solution and diluted with about 200 mL of water. The mixture was extracted with two 250 mL portions of diethyl ether. The combined extracts were washed with one 250 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was taken up in 150 grams of silica gel, and the solvent was removed under reduced pressure. The silica gel mixture was placed on top of a column of silica gel, and the mixture was eluted with 10% ethyl acetate in petroleum ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 6.9 grams of ethyl 5-(4-methoxyphenyl)-2,4-hexadienoate. The NMR spectrum was consistent with the proposed structure. This reaction was repeated several times.

reactant | potassium tert.-butoxide | 0.230 mole, 25.3 grams | CC(C)([O-])C.[K+]
reactant | triethyl 4-phosphonocrotonate | 0.230 mole, 56.5 grams | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | 4-methoxyacetophenone | 0.180 mole, 26.6 grams | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | about 200 mL | O | H2O
product | ethyl 5-(4-methoxyphenyl)-2,4-hexadienoate | 6.9 grams | COC1=CC=C(C=C1)C(=CC=CC(=O)OCC)C | C15H18O3
